US07517889B2
A mixture of 4,6-dichloro-2-methoxy-pyrimidine (0.66 g, 3.69 mmol), 2,2-difluoro-2-phenyl-ethylamine (0.58 g, 3.69 mmol), and NaHCO3 (0.93 g, 11.1 mmol) in 95% EtOH (10 mL) is heated to reflux. After stirred at 85° C. for 5 h. The mixture is diluted with water, filtered, washed (water), and dried to afford (6-chloro-2-methoxy-pyrimidin-4-yl)-(2,2-difluoro-2-phenyl-ethyl)-amine as a solid (0.58 g). LCMS: RT=3.17 minutes, MS: 300 (M+H). 1H NMR (300 MHz, CDCl3) □7.57-7.45 (5H, m), 6.1 (1H, s), 5.2 (1H, s), 4.2-4 (2H, m), 3.92 (3H, s).

reactant | 4,6-dichloro-2-methoxy-pyrimidine | 3.69 mmol, 0.66 g | ClC1=NC(=NC(=C1)Cl)OC | C5H4Cl2N2O
reactant | 2,2-difluoro-2-phenyl-ethylamine | 3.69 mmol, 0.58 g | FC(CN)(C1=CC=CC=C1)F | C8H9F2N
reactant | NaHCO3 | 11.1 mmol, 0.93 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | water | O | H2O
product | (6-chloro-2-methoxy-pyrimidin-4-yl)-(2,2-difluoro-2-phenyl-ethyl)-amine | 0.58 g | ClC1=CC(=NC(=N1)OC)NCC(C1=CC=CC=C1)(F)F | C13H12ClF2N3O
